US09193728B2
5-Methylindoline (1.0 g, 7.5 mmol) was stirred in 3N HCl (20 mL) at 0° C. Sodium nitrite (0.621 g, 9.0 mmol) in water (2 mL) was added dropwise and the mixture was stirred at 0° C. for 5 min. followed by RT for 20 min. The reaction mixture was extracted with DCM (500 mL), and the organic layer was dried over sodium sulfate and concentrated under vacuum to obtain 1.2 g of 5-methyl-1-nitrosoindoline.

reactant | 5-Methylindoline | 7.5 mmol, 1.0 g | CC=1C=C2CCNC2=CC1 | C9H11N
reactant | Sodium nitrite | 9.0 mmol, 0.621 g | N(=O)[O-].[Na+]
solvent | HCl | 3N, 20 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 5-methyl-1-nitrosoindoline | 1.2 g | CC=1C=C2CCN(C2=CC1)N=O | C9H10N2O
